US09029411B2
A solution of 3-morpholin-4-yl-3-thioxopropanenitrile (0.122 g, 0.72 mmol) and p-anisaldehyde (0.1 mL, 0.86 mmol) in 10% piperidine/ethanol (5.5 mL) was allowed to stir at 50° C. under nitrogen for 3.5 h. The reaction mixture was concentrated and the residue was diluted with 10% citric acid solution and extracted with EtOAc. The organic solutions were combined, washed with sat NaHCO3 and brine, dried over MgSO4, filtered and concentrated to give 3-(4-methoxyphenyl)-2-(morpholin-4-ylcarbonothioyl)acrylonitrile. The crude product was a mixture of stereoisomers and was used directly in the next step. LCMS: (AA) ES+ 289.

reactant | 3-morpholin-4-yl-3-thioxopropanenitrile | 0.72 mmol, 0.122 g | N1(CCOCC1)C(CC#N)=S | C7H10N2OS
reactant | p-anisaldehyde | 0.86 mmol, 0.1 mL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | piperidine ethanol | 5.5 mL | N1CCCCC1.C(C)O
product | 3-(4-methoxyphenyl)-2-(morpholin-4-ylcarbonothioyl)acrylonitrile | COC1=CC=C(C=C1)C=C(C#N)C(=S)N1CCOCC1 | C15H16N2O2S
